US09315491B2
5-Ethoxy-2-(4-{3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-ureido}-phenyl)-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester
EDC (53.7 mg, 1.5 eq.), HOBT (42.9 mg, 1.5 eq.), 1-methyl-piperazine (0.03 ml, 1.5 eq.) and Et3N (0.053 ml, 2.0 eq.) were added to a stirred solution of 2-{4-[3-(4-carboxy-phenyl)-ureido]-phenyl}-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester (80 mg, 1 eq.) in dry DMF (2 ml) and the mixture reacted overnight at r.t. The mixture was quenched with H2O, extracted with EA, and washed with brine. The crude was purified by chromatography to give a product (34.5 mg, 30%).

reactant | EDC | 53.7 mg, 1.5 eq.
reactant | HOBT | 42.9 mg, 1.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methyl-piperazine | 0.03 ml, 1.5 eq. | CN1CCNCC1 | C5H12N2
reactant | Et3N | 0.053 ml, 2.0 eq. | CCN(CC)CC | C6H15N
reactant | 2-{4-[3-(4-carboxy-phenyl)-ureido]-phenyl}-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 80 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)O | C27H29N5O7
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-Ethoxy-2-(4-{3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-ureido}-phenyl)-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 34.5 mg, 30% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C32H39N7O6
